US04451471
15.0 g of 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione are dissolved in 50 ml of 2 N sodium hydroxide solution, 15.4 g of bromoacetaldehyde-dimethylacetal (2,2-dimethoxy-1-bromoethane) are added under nitrogen and the mixture is heated to 80° while stirring. The mixture is stirred at 80° for 2.5 hours, cooled to room temperature, extracted by shaking with 100 ml of toluene, the organic layer is removed and the aqueous phase is subsequently shaken with 50 ml of toluene. The organic phases are combined, washed twice with 30 ml of 2 N sodium hydroxide solution each time and then with 30 ml of 2 N hydrochloric acid, dried over magnesium sulphate, concentrated by evaporation under reduced pressure and carefully dried. The crude product is crystallised from hexane/methanol (50 ml+5 ml). 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylthio]-acetaldehyde-dimethylacetal having a melting point of 60°-61° is obtained.

reactant | 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione | 15.0 g | COC1=CC=C(C=C1)C1=NC(SC1C1=CC=C(C=C1)OC)=S | C17H15NO2S2
reactant | bromoacetaldehyde-dimethylacetal | 15.4 g | COC(CBr)OC | C4H9BrO2
solvent | sodium hydroxide | 2 N, 50 ml | [OH-].[Na+]
product | 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylthio]-acetaldehyde-dimethylacetal | COC(CSC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)OC | C21H23NO4S2
